US08957070B2
Ethyl 2-{4-methyl-7-[methyl(2-thienylsulfonyl)amino]-1H-indol-2-yl}-1,3-thiazole-4-carboxylate
A mixed solution of 4-methyl-7-[methyl(2-thienylsulfonyl)amino]-1H-indole-2-carbothioamide (0.50 g), ethyl bromopyruvate (0.36 mL) and N,N-dimethylacetamide (14 ml) was stirred at 100° C. for 3 hr. The reaction solution was diluted with ethyl acetate, washed with water and saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The obtained crystals were washed with ethyl acetate-hexane to give the title compound (403 mg, yield 64%) as pale-brown crystals. MS:462 (MH+).

reactant | 4-methyl-7-[methyl(2-thienylsulfonyl)amino]-1H-indole-2-carbothioamide | 0.50 g | CC1=C2C=C(NC2=C(C=C1)N(S(=O)(=O)C=1SC=CC1)C)C(N)=S | C15H15N3O2S3
reactant | ethyl bromopyruvate | 0.36 mL | BrCC(C(=O)OCC)=O | C5H7BrO3
reactant | N,N-dimethylacetamide | 14 ml | CN(C(C)=O)C | C4H9NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Ethyl 2-{4-methyl-7-[methyl(2-thienylsulfonyl)amino]-1H-indol-2-yl}-1,3-thiazole-4-carboxylate | 403 mg, yield 64% | CC1=C2C=C(NC2=C(C=C1)N(S(=O)(=O)C=1SC=CC1)C)C=1SC=C(N1)C(=O)OCC | C20H19N3O4S3
